US08236826B2
Production of 3,4-dichloro-N-{6-[4-(5-chloropentyl)-phenoxy]pyridin-3-yl}benzamide hydrochloride
To 3,4-dichloro-N-{6-[4-(5-hydroxypentyl)-phenoxy]pyridin-3-yl}benzamide (6.83 g, 15.34 mmol) was added thionyl chloride (35 mL). The resulting solution was stirred for 20 minutes at room temperature, followed by stirring for 1 hour at 50° C. Excess thionyl chloride was evaporated, after which to the resulting residue was added ethyl acetate (100 mL). The obtained white powder was filtered, and washed with ethyl acetate, to thereby yield 6.98 g of the title compound.

reactant | 3,4-dichloro-N-{6-[4-(5-hydroxypentyl)-phenoxy]pyridin-3-yl}benzamide | 15.34 mmol, 6.83 g | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CCCCCO)C=CC1Cl | C23H22Cl2N2O3
reactant | thionyl chloride | 35 mL | S(=O)(Cl)Cl | Cl2OS
product | 3,4-dichloro-N-{6-[4-(5-chloropentyl)-phenoxy]pyridin-3-yl}benzamide hydrochloride | Cl.ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CCCCCCl)C=CC1Cl | InChI=1S/C23H21Cl3N2O2.ClH/c24-13-3-1-2-4-16-5-9-19(10-6-16)30-22-12-8-18(15-27-22)28-23(29)17-7-11-20(25)21(26)14-17;/h5-12,14-15H,1-4,13H2,(H,28,29);1H
